US08114878B2
2.2.5 (R)-1-(2-chloro-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ylamino)-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol
533 mg 2,4-dichloro-6,7-dihydro-thieno[3,2-d]pyrimidine, 850 mg (R)-1-amino-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol and 1.3 ml diisopropylethylamine are suspended in 9.8 ml dioxane. The reaction mixture is stirred for 2 hours in the microwave at 80° C. and then evaporated to dryness. The residue is mixed with water. The precipitate formed is suction filtered and purified by chromatography (silica gel, petroleum ether/ethyl acetate 100/0 to 60/40). 260 mg of the product are obtained as a solid.

reactant | 2,4-dichloro-6,7-dihydro-thieno[3,2-d]pyrimidine | 533 mg | ClC=1N=C(C2=C(N1)CCS2)Cl | C6H4Cl2N2S
reactant | (R)-1-amino-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol | 850 mg | N[C@@H](C(C)(O)C)C1=CC=C(C=C1)F | C10H14FNO
reactant | diisopropylethylamine | 1.3 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 9.8 ml | O1CCOCC1 | C4H8O2
product | (R)-1-(2-chloro-6,7-dihydro-thieno[3,2-d]pyrimidin-4-ylamino)-1-(4-fluoro-phenyl)-2-methyl-propan-2-ol | 260 mg | ClC=1N=C(C2=C(N1)CCS2)N[C@@H](C(C)(O)C)C2=CC=C(C=C2)F | C16H17ClFN3OS
